US08183381B2
Step 3: 2-(4-(4-(chloromethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)-5-ethylpyrimidine
To a solution (1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.13 g, 0.366 mmol) in dichloromethane (3 mL) was added thionyl chloride (1.2 mL) and the solution was stirred at room temperature for 2 h. The reaction was concentrated in vacuo and the crude product was used in the next step without further purification.

reactant | (1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.366 mmol, 0.13 g | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=CC(=C1C(F)(F)F)CO | C16H20F3N5O
reactant | thionyl chloride | 1.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(4-(4-(chloromethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)piperidin-1-yl)-5-ethylpyrimidine | ClCC=1C=NN(C1C(F)(F)F)C1CCN(CC1)C1=NC=C(C=N1)CC | C16H19ClF3N5
